US08058269B2
The mixture of 3-methoxyaniline (3.7 g), ethyl bromoacetate (5 g) and triethylamine (4 g) in dichloromethane (30 mL) was stirred at room temperature for overnight. The mixture was washed with water (50 ml), dried over Na2SO4 and concentrated. The residue was purified with chromatography to give 1.7 g of (3-methoxy-phenylamino)-acetic acid ethyl ester. 1HNMR: δ 1.33 (3H), 3.796 (3H), 3.92 (2H), 4.26 (2H), 6.21 (1H), 6.29 (1H), 6.36 (1H), 7.13 (1H).

reactant | 3-methoxyaniline | 3.7 g | COC=1C=C(N)C=CC1 | C7H9NO
reactant | ethyl bromoacetate | 5 g | BrCC(=O)OCC | C4H7BrO2
reactant | triethylamine | 4 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (3-methoxy-phenylamino)-acetic acid ethyl ester | 1.7 g | C(C)OC(CNC1=CC(=CC=C1)OC)=O | C11H15NO3
